US09126940B2
A solution of tert-butyl 2-((methylsulfonyloxy)methyl)pyrrolidine-1-carboxylate (5.0 g, 18 mmol) and propan-1-amine (20.0 g, 339 mmol) in toluene (50 mL) was heated at 100° C. overnight. The reaction mixture was cooled to room temperature and concentrated under reduced pressure to afford the crude tert-butyl 2-((propylamino)methyl)pyrrolidine-1-carboxylate that was used directly without further purification. LCMS ESI (+) m/z 243 (M+1) detected.

reactant | tert-butyl 2-((methylsulfonyloxy)methyl)pyrrolidine-1-carboxylate | 18 mmol, 5.0 g | CS(=O)(=O)OCC1N(CCC1)C(=O)OC(C)(C)C | C11H21NO5S
reactant | propan-1-amine | 339 mmol, 20.0 g | C(CC)N | C3H9N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2-((propylamino)methyl)pyrrolidine-1-carboxylate | C(CC)NCC1N(CCC1)C(=O)OC(C)(C)C | C13H26N2O2
